US05633366
400 ml of acetonitrile and 2.16 g (3 equivalents) of water were added to 16.2 g (40.0 mmol) of 2'-deoxy-2'-bromo-3',5'-O-diacetyl-5-methyluridine, and the mixture was stirred. The resulting solution was cooled to 0° C., 6.01 g (3 equivalents) of hydrazine monohydrate were added thereto, and the mixture was reacted for 20 hours at that temperature. 100 ml of water were added to the reaction mixture, which was then neutralized to a pH of 6.8 by adding 6 N-hydrochloric acid thereto. The acetonitrile layer was separated, washed with saturated saline solution, dried with anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 13.5 g of 2'-deoxy-2'-bromo-5'-O-acetyl-5-methyluridine. Its purity was 81.8%. Its yield was 76.0%.

reactant | 2'-deoxy-2'-bromo-3',5'-O-diacetyl-5-methyluridine | 40.0 mmol, 16.2 g | Br[C@H]1[C@@H](O[C@@H]([C@]1(O)C(C)=O)COC(C)=O)N1C(=O)NC(=O)C(=C1)C | C14H17BrN2O7
reactant | hydrazine monohydrate | 6.01 g, 3 equivalents | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | water | 2.16 g, 3 equivalents | O | H2O
product | 2'-deoxy-2'-bromo-5'-O-acetyl-5-methyluridine | 13.5 g, yield was 76.0% | Br[C@H]1[C@@H](O[C@@H]([C@H]1O)COC(C)=O)N1C(=O)NC(=O)C(=C1)C | C12H15BrN2O6
